US06316467B1
4-[(Aminothioxomethyl)hydrazono]-N-(1-methylethyl)-4-phenyl-butanamide
Thiosemicarbazide (2.08 g, 22.8 mmol) was added to a solution of N-(1-methylethyl)-4-oxo-4-phenyl-butyramide (5.0 g, 22.8 mmol), prepared in the previous step, in 80 ml of methanol plus 6.2 ml of 1 N HCl plus 6.2 ml of water and the reaction stirred at room temperature for 2 days. An additional 1.04 g (11.4 mmol) of thiosemicarbazide was added and the reaction stirred at room temperature for 24 hours. The reaction was cooled in an ice bath and a white solid precipitated. The solid was collected by filtration and dried. Recrystallization of the solid from isopropyl alcohol gave the title compound (4.73 g, 53%) as a white solid, mp 66-71° C.

reactant | Thiosemicarbazide | 22.8 mmol, 2.08 g | NNC(=S)N | CH5N3S
reactant | N-(1-methylethyl)-4-oxo-4-phenyl-butyramide | 22.8 mmol, 5.0 g | CC(C)NC(CCC(C1=CC=CC=C1)=O)=O | C13H17NO2
reactant | HCl | 1 N, 6.2 ml | Cl | ClH
reactant | water | 6.2 ml | O | H2O
reactant | thiosemicarbazide | 11.4 mmol, 1.04 g | NNC(=S)N | CH5N3S
solvent | methanol | 80 ml | CO | CH4O
product | 4-[(Aminothioxomethyl)hydrazono]-N-(1-methylethyl)-4-phenyl-butanamide | 4.73 g, 53% | NC(=S)NN=C(CCC(=O)NC(C)C)C1=CC=CC=C1 | C14H20N4OS
